* source B1
R_R1         N07834 N07763  16 TC=0,0 
R_R2         N07763 N07767  15 TC=0,0 
R_R3         N07763 N07794  30 TC=0,0 
R_R4         N07767 N07794  10 TC=0,0 
R_R5         0 N07767  12 TC=0,0 
R_R6         0 N07763  35 TC=0,0 
R_R7         0 N07794  20 TC=0,0 
V_V1         N07834 0 100Vdc
